US05939439
Step 4: 1-{4-[5-(4-Cyanophenyloxy)imidazol-1-ylmethyl]phenyl}-1H-pyridin-2-one
A mixture of 1-{4-[5-(4-bromophenyloxy)imidazol-1-ylmethyl]-phenyl}-1H-pyridin-2-one (145 mg, 0.35 mmol) and zinc cyanide (24 mg, 0.2 mmol) in DMF (3 mL) was purged with argon for 10 min. A solution of tetrakis(triphenylphosphine)palladium(0) (40 mg, 35 μmol) in DMF (1 mL) was added. The resultant mixture was stirred under argon at 80° C. overnight, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 1:1 v/v 5% methanol in chloroform and chloroform saturated with ammonia gas. Collection and concentration of appropriate fractions provide the titled compound as white solid.

reactant | 1-{4-[5-(4-bromophenyloxy)imidazol-1-ylmethyl]-phenyl}-1H-pyridin-2-one | 0.35 mmol, 145 mg | BrC1=CC=C(C=C1)OC1=CN=CN1CC1=CC=C(C=C1)N1C(C=CC=C1)=O | C21H16BrN3O2
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.2 mmol, 24 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 35 μmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-{4-[5-(4-Cyanophenyloxy)imidazol-1-ylmethyl]phenyl}-1H-pyridin-2-one | C(#N)C1=CC=C(C=C1)OC1=CN=CN1CC1=CC=C(C=C1)N1C(C=CC=C1)=O | C22H16N4O2
